US08633175B2
To a 100 mL round bottom flask was added ethyl 4-(5-formyl-2-furanyl)benzoate (100 mg, 0.41 mmol, commercially available), [2-(3-fluorophenyl)ethyl]amine (0.070 mL, 0.49 mmol), NaBH(OAc)3 (261 mg, 1.23 mmol) and DCE (10 mL). The reaction was stirred at room temperature overnight, quenched with H2O, and extracted with CH2Cl2 (×3). The organic layer was washed with brine, dried with MgSO4 and concentrated under reduced pressure to give 150 mg of ethyl 4-[5-({[2-(3-fluorophenyl)-ethyl]amino}methyl)-2-furanyl]benzoate (used without further purification). LC/MS (method A) 1.97 min; m/z 368 (M+H).

reactant | ethyl 4-(5-formyl-2-furanyl)benzoate | C(=O)C1=CC=C(O1)C1=CC=C(C(=O)OCC)C=C1 | C14H12O4
reactant | [2-(3-fluorophenyl)ethyl]amine | 0.49 mmol, 0.070 mL | FC=1C=C(C=CC1)CCN | C8H10FN
reactant | NaBH(OAc)3 | 1.23 mmol, 261 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | ethyl 4-[5-({[2-(3-fluorophenyl)-ethyl]amino}methyl)-2-furanyl]benzoate | 150 mg | FC=1C=C(C=CC1)CCNCC1=CC=C(O1)C1=CC=C(C(=O)OCC)C=C1 | C22H22FNO3
